US05952321
Step C: (S)-(-)-N-Carbobenzyloxy-N-methyl-α-methyl-4-nitrobenzylamine
A solution of (S)-(-)-N-carbobenzyloxy-α-methyl-4-nitrobenzylamine (8.2 gm, 28 mmol) and methyl iodide (2.6 mL, 42 mmol) in DMF (50 mL) was cooled under nitrogen in an ice bath to 5-10° C. and sodium hydride (60% suspension in mineral oil) (1.2 gm, 31 mmol) was added in portions over 15 min while maintaining the temperature at 5-10° C. The reaction was stirred for 1 hr and then slowly quenched into a mixture of ice water, 2N hydrochloric acid (20 mL) and ether and the layers were separated. The ether layer was washed with water and brine and the aqueous layers were consecutively extracted with a second portion of ether. The pooled ether layers were dried over sodium sulfate and evaporated. The residue was purified by flash chromatography using 10-30% ethyl acetate/hexanes to give 6.6 gm (77%) of the title compound. [α]D (EtOH)=-97°.

reactant | (S)-(-)-N-carbobenzyloxy-α-methyl-4-nitrobenzylamine | 28 mmol, 8.2 gm | C(=O)(OCC1=CC=CC=C1)N[C@H](C1=CC=C(C=C1)[N+](=O)[O-])C | C16H16N2O4
reactant | methyl iodide | 42 mmol, 2.6 mL | CI | CH3I
reactant | sodium hydride | 31 mmol, 1.2 gm | [H-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (S)-(-)-N-Carbobenzyloxy-N-methyl-α-methyl-4-nitrobenzylamine | 6.6 gm, 77% | C(=O)(OCC1=CC=CC=C1)N(C)[C@H](C1=CC=C(C=C1)[N+](=O)[O-])C | C17H18N2O4
